### ISSUE TITLE
`cases'` seems to bypass the unused variables linter

### ISSUE THREAD

**Issue by ericrbg** [leanprover-community/mathlib4#9228]
Observe this as compared to the `rcases/obtain` examples:

```lean
import Mathlib.Tactic.Basic
import Mathlib.Tactic.Cases

theorem x : False ∨ False := sorry

theorem a : True := by
  cases' x with h h -- no linter
  · trivial
  · trivial

-- both of these do have linter:
theorem b : True := by
  rcases x with h | h
  · trivial
  · trivial

theorem c : True := by
  obtain h | h := x
  · trivial
  · trivial
```

**Comment by ericrbg** [comment]
this is actually leanprover/lean4#3112
